US05877199
2-[4-Hydroxy-2-(indol-2-ylthio)butyl]-4,4-dimethyl-2-oxazoline
1 ml of a 1M solution of tetra-n-butyl ammonium fluoride in tetrahydrofuran was added to a solution of 460 mg of 2-[4-tert-butyldiphenylsilyloxy-2-(indol-2-ylthio)butyl]-4,4-dimethyl-2-oxazoline [prepared as described in Example 78b)] in 20 ml of tetrahydrofuran, with stirring, at room temperature, and stirring was continued at this temperature for 30 minutes. After this time, the reaction mixture was diluted with water and then extracted with ethyl acetate. The ethyl acetate fraction was then washed with water and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure and the resulting residue was purified by silica gel column chromatography, using a mixture of 60% v/v ethyl acetate in hexane as the eluent, to afford 165 mg of the title compound as an oil.

reactant | tetra-n-butyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[4-tert-butyldiphenylsilyloxy-2-(indol-2-ylthio)butyl]-4,4-dimethyl-2-oxazoline | 460 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC=1OCC(N1)(C)C)SC=1NC2=CC=CC=C2C1 | C33H40N2O2SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-Hydroxy-2-(indol-2-ylthio)butyl]-4,4-dimethyl-2-oxazoline | 165 mg | OCCC(CC=1OCC(N1)(C)C)SC=1NC2=CC=CC=C2C1 | C17H22N2O2S
